US05753664
8-Chloro-7-[4-(4-chlorobenzoyl)benzyl]-1,3-dimethylxanthine
To a solution of 8-chlorotheophylline (2.15 g) in DMF (20 ml) was added potassium carbonate (1.66 g) as well as 4-(4-chlorobenzoyl)benzyl bromide (3.10 g) and the mixture was stirred at room temperature for 20 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was washed with ether to provide the title compound as white powder (3.34 g, 75%). 1H-NMR (CDCl3) 6: 3.41(3H,s), 3.57(3H,s), 5.64(2H,s), 7.41-7.52(4H,m), 7.68-7.80(4H,m).

reactant | 8-chlorotheophylline | 2.15 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 3.10 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-7-[4-(4-chlorobenzoyl)benzyl]-1,3-dimethylxanthine | 3.34 g, 75% | ClC1=NC=2N(C(N(C(C2N1CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)=O)C)=O)C | C21H16Cl2N4O3
